US07598257B2
To a solution of 4-bromo-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (2.05 g, 0.00626 mol) in THF (10 mL, 0.123 mol) at 0° C. was added dropwise a solution of isopropylmagnesium chloride in ether (2.0 M, 9.4 mL). The mixture was allowed to warm to room temperature and stirred for 4 hours. This mixture was then transferred via cannula to a solution of 2-chloro-N-methoxy-N-methylacetamide (2.84 g, 0.0207 mol) in THF (10 ml). After 30 minutes reaction time, the solution was quenched by the addition of saturated ammonium chloride aqueous solution. The product was extracted with ethyl acetate, the combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography (0-20% ethyl acetate/hexanes) to afford 2-chloro-1-(1-[2-(trimethylsilyl)-ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)ethanone (711 mg, 35%). 1H NMR (400 MHz, CDCl3): δ 8.56 (d, 1H), 7.66 (d, 1H), 7.60 (d, 1H), 7.23 (d, 1H), 5.80 (s, 2H), 4.91 (s, 2H), 3.60 (dd, 2H), 0.98 (dd, 2H), 0.01 (s, 9H); MS(ES): 325 (M+1).

reactant | 4-bromo-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.00626 mol, 2.05 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-chloro-N-methoxy-N-methylacetamide | 0.0207 mol, 2.84 g | ClCC(=O)N(C)OC | C4H8ClNO2
solvent | ether | 2.0 M, 9.4 mL | CCOCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 0.123 mol, 10 mL | C1CCOC1 | C4H8O
product | 2-chloro-1-(1-[2-(trimethylsilyl)-ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)ethanone | 711 mg, 35% | ClCC(=O)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C15H21ClN2O2Si
